resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.988777
R2 0 n2 1.017097
R3 0 n4 1.001708
R4 n1 n3 1.007524
R5 n1 n5 0.985993
R6 n2 n3 0.980702
R7 n2 n6 1.005824
R8 n3 n7 1.005137
R9 n4 n5 1.001881
R10 n4 n6 0.988875
R11 n5 n7 0.089541
R12 n6 n7 0.98224
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
